US08426420B2
ii) (S)-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-cyclohexyl-acetic acid
To a solution of 428 mg (S)-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-cyclohexyl-acetic acid methyl ester in 20 ml THF and 5 ml water were added 30 mg lithium hydroxide at 0° C. After stirring for 4 h it was acidified with 1 N HCl and concentrated in vacuo to give the crude product as colorless oil. Yield: 380 mg.

reactant | (S)-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-cyclohexyl-acetic acid methyl ester | 428 mg | COC([C@H](C1CCCCC1)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C30H39N5O6
reactant | lithium hydroxide | 30 mg | [OH-].[Li+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | (S)-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-cyclohexyl-acetic acid | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NN1C1=CC=CC=C1)C(=O)N[C@H](C(=O)O)C1CCCCC1)=O | C29H37N5O6
